US07973181B2
Stage 4: (S)-5-Bromo-2-tert-butoxycarbonylamino-pentanoic acid cyclopentyl ester
To a slurry of N-bromo succinimide (3.54 g, 19.9 mmol) in DCM (30 ml) was added a solution of triphenyl phosphine (4.87 g, 18.8 mmol) in DCM (15 ml). The solution was stirred for a further 5 minutes before addition of pyridine (644 μl, 7.96 mmol) and a solution of (S)-2-tert-Butoxycarbonylamino-5-hydroxy-pentanoic acid cyclopentyl ester (2.0 g, 6.64 mmol) in DCM (20 ml). The solution was stirred for 18 hrs, concentrated in vacuo and the residual solvent azeotroped with toluene (3×30 ml). The residue was triturated with diethyl ether (30 ml) and ethyl acetate:heptane (1:9, 2×30 ml). The combined ether and ethyl acetate/heptane solutions was concentrated onto silica and purified by column chromatography using ethyl acetate/heptane (1:9-2:8) to provide 1.34 g (55% yield) of title compound as a clear oil. 1H NMR (300 MHz, CDCl3), δ 5.25 (1 H, m), 5.05 (1H, bd), 3.45 (2H, m), 2.00-1.55 (12H, bm), 1.45 (9H, s).

reactant | N-bromo succinimide | 19.9 mmol, 3.54 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | triphenyl phosphine | 18.8 mmol, 4.87 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | pyridine | 7.96 mmol, 644 μl | N1=CC=CC=C1 | C5H5N
reactant | (S)-2-tert-Butoxycarbonylamino-5-hydroxy-pentanoic acid cyclopentyl ester | 6.64 mmol, 2.0 g | C1(CCCC1)OC([C@H](CCCO)NC(=O)OC(C)(C)C)=O | C15H27NO5
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | (S)-5-Bromo-2-tert-butoxycarbonylamino-pentanoic acid cyclopentyl ester | 1.34 g, 55% yield | C1(CCCC1)OC([C@H](CCCBr)NC(=O)OC(C)(C)C)=O | C15H26BrNO4
